US07671235B2
To a stirred solution of 1-[(R)-6-(3-fluoro-phenylsulfanyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-azetidin-3-ol (0.08 g, 0.23 mmol) in MeOH (4 mL) was added a solution of OXONE™ (0.307 g, 0.5 mmol) in 2.5 mL water. The reaction mixture was stirred at room temperature for 36 hours. The mixture was taken up in EtOAc, and the organic layer was washed with 1.5 M aqueous sodium carbonate, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by preparative TLC (hexanes/EtOAc/MeOH 5:4:1 to give 0.06 g of 1-[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-azetidin-3-ol, MS M+H=376.

reactant | 1-[(R)-6-(3-fluoro-phenylsulfanyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-azetidin-3-ol | 0.23 mmol, 0.08 g | FC=1C=C(C=CC1)SC=1C=C2CCC[C@H](C2=CC1)CN1CC(C1)O | C20H22FNOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | water | 2.5 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-azetidin-3-ol | 0.06 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CN1CC(C1)O | C20H22FNO3S
